* Phase D: NDMOS20V switching a resistive load from a 12 V supply
* Stress: HV drift-MOS turn-on/off through the triode/saturation boundary,
* gate-charge sweep, and the smoothed VCR resistors on bias.
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0

Vdd   vdd 0 12
Rload vdd d   10
Vgs   g   0 PULSE(0 5 50n 10n 10n 500n 1u)
XN    d g 0 NDMOS20V W=100u M=1

.control
tran 5n 1.5u
echo TRAN_OK
quit
.endc
.end
